US07384967B2
Crude (2-amino-5-methyl-phenyl)-cyclohexyl-methanone (75%, oil) was prepared in a similar fashion as described for (2-amino-5-methyl-phenyl)-cyclopropyl-methanone using cyclohexanecarboxylic acid methoxy-methyl-amide instead of cyclopropanecarboxylic acid methoxy-methyl-amide.

reactant | (2-amino-5-methyl-phenyl)-cyclopropyl-methanone | NC1=C(C=C(C=C1)C)C(=O)C1CC1 | C11H13NO
reactant | cyclohexanecarboxylic acid methoxy-methyl-amide | CON(C(=O)C1CCCCC1)C | C9H17NO2
product | (2-amino-5-methyl-phenyl)-cyclohexyl-methanone | 75% | NC1=C(C=C(C=C1)C)C(=O)C1CCCCC1 | C14H19NO
